US07858640B2
N-(2-chloro-5-hydroxyphenyl)-2-(2-chloro-4-methanesulfonylbenzyl)-3-oxobutyramide
The title compound was prepared by the method of Preparation 34b using 3-amino-4-chlorophenol and 2-(2-chloro-4-methanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl ester.

reactant | 3-amino-4-chlorophenol | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | 2-(2-chloro-4-methanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl ester | C(C)(C)(C)SC(C(C(C)=O)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C16H21ClO4S2
product | N-(2-chloro-5-hydroxyphenyl)-2-(2-chloro-4-methanesulfonylbenzyl)-3-oxobutyramide | ClC1=C(C=C(C=C1)O)NC(C(C(C)=O)CC1=C(C=C(C=C1)S(=O)(=O)C)Cl)=O | C18H17Cl2NO5S
